US04066456
a. Preparation of 2-chloro-4-methyl-5-nitrobenzamide
A mixture of 25.1 grams 2-chloro-4-methyl-5-nitrobenzonitrile (Weissberger et al, J. Chem, Soc., p.68 (1935) and 200 ml 70% sulfuric acid was heated with stirring on a steam bath for 41/2 hours. A precipitate started to form after this time and the mixture was poured into ice water (about 400 ml). The product was filtered, washed with water and recrystallized from ethanol. Yield = 19.2 grams. m.p. = 180°-183° C.

reactant | 2-chloro-4-methyl-5-nitrobenzonitrile | 25.1 grams | ClC1=C(C#N)C=C(C(=C1)C)[N+](=O)[O-] | C8H5ClN2O2
reactant | sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
product | 2-chloro-4-methyl-5-nitrobenzamide | ClC1=C(C(=O)N)C=C(C(=C1)C)[N+](=O)[O-] | C8H7ClN2O3
